US08633183B2
A-73) 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid
The title compound is synthesized according to general procedure GP8 starting from 17.8 g (47.3 mmol) 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid methyl ester using 3.97 g (94.6 mmoL) LiOH in 30 mL water and 300 mL THF. The reaction mixture is stirred over night at RT. The solvent is removed under reduced pressure and the residie is taken up in water. Aqueous 1 M HCl is added until pH 5 is reached. The precipitated product is filtered off and washed with ACN. After drying 17.1 g (85%) of the desired product are obtained a solid material.

reactant | 4-[5-(6-amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid methyl ester | 47.3 mmol, 17.8 g | COC(C1=C(C=C(C=C1)C1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC)F)=O | C21H17FN4O2
reactant | LiOH | [Li+].[OH-]
solvent | water | 30 mL | O | H2O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 4-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-2-fluoro-benzoic acid | NC1=CC=C(C=N1)C#CC=1C(=NC=NC1CC)C1=CC(=C(C(=O)O)C=C1)F | C20H15FN4O2
